* strained direction
.include strain_wrap.inc
Valp alpha 0 dc 0.0
Veps eps_s 0 dc 0.005
Vdd d 0 dc 1.0
Vgs g 0 dc 0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
Xwrap d g s b eps_s alpha strain_aware_device nu=0.47 beta=0.8 gamma=0.0 vth0=0.4 mu0=0.04 nu=0.47 beta=0.8 gamma=0.0 beta_r=2.0 gamma_r=0.0 tau_m=0.05 tau_load=0.02 tau_unload=0.1
.dc Valp 0.0 1.5707963267948966 0.09817477042468103
.print dc v(eps_s) v(alpha) i(Vdd)
.end
